US07906541B2
Stage A Preparation of 9-ethyl-3-methyl[1,3]thiazolo[3,2-a]benzimidazol-9-ium iodide
153 mg of 3-methyl[1,3]thiazolo[3,2-a]benzimidazole were solubilised in acetone (5 mL). Then 328 μl, (5 eq) of iodoethane were added and the solution stirred under reflux. After 18 h, 9-ethyl-3-methyl[1,3]thiazolo[3,2-a]benzimidazol-9-ium iodide was recovered as a white powder (267 mg, 96%) by filtration. Mp 268° C.; 1H NMR (300 MHz, MeOD) δ=1.64 (3H, t, J=7.3, CH3), 2.95 (3H, d, J=CH3), 4.66 (2H, q, J=7.3, CH2), 7.37 (1H, q, J=1.3, H5), 7.66-7.81 (2H, m, Ar), 8.01-8.04 (1H, m, Ar), 8.27-8.30 (1H, m, Ar); 13C NMR (75 MHz, MeOD) δ=13.21, 14.25, 43.61, 112.19, 113.66, 114.93, 126.26, 128.32, 129.05, 135.29, 137.28, 155.62.

reactant | 3-methyl[1,3]thiazolo[3,2-a]benzimidazole | 153 mg | CC1=CSC2=NC3=C(N21)C=CC=C3 | C10H8N2S
reactant | iodoethane | 5 eq | ICC | C2H5I
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | 9-ethyl-3-methyl[1,3]thiazolo[3,2-a]benzimidazol-9-ium iodide | [I-].C(C)[N+]1=C2N(C3=C1C=CC=C3)C(=CS2)C | InChI=1S/C12H13N2S.HI/c1-3-13-10-6-4-5-7-11(10)14-9(2)8-15-12(13)14;/h4-8H,3H2,1-2H3;1H/q+1;/p-1
